US08124606B2
(S)-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid (87 mg, 0.214 mmol) and methanamine hydrochloride (21.62 mg, 0.320 mmol) were suspended in DMF (1 ml) and treated with DIPEA (0.186 ml, 1.068 mmol) and 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) (162 mg, 0.427 mmol). The reaction mixture was stirred at room temperature for 23 h and purified using HPLC (25-95% acetonitrile in water, NH4HCO3 buffered) to afford (S)-N-methyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide (42.4 mg, 0.101 mmol, 47.2% yield) as a light yellow solid. 1H NMR (400 MHz, DMSO-d6) δ (ppm): 1.83-2.01 (m, 3H) 2.11-2.25 (m, 1H) 2.39-2.48 (m, 4H) 2.73 (d, J=4.55 Hz, 3H) 3.13-3.27 (m, 4H) 3.34-3.44 (m, 3H) 3.52-3.64 (m, 1H) 3.96-4.02 (m, 1H) 6.92 (d, J=9.09 Hz, 2H) 6.98 (d, J=2.02 Hz, 1H) 7.62 (d, J=1.77 Hz, 1H) 7.69 (d, J=9.09 Hz, 2H) 8.13 (q, J=4.29 Hz, 1H) 10.44 (s, 1H); [M+H] calc'd for C23H28N6O2, 421; found, 421.

reactant | (S)-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzoic acid | 0.214 mmol, 87 mg | O=C1[C@H]2N(C3=C(N1)C=C(C=N3)CN3CCN(CC3)C3=CC=C(C(=O)O)C=C3)CCC2 | C22H25N5O3
reactant | methanamine hydrochloride | 0.320 mmol, 21.62 mg | Cl.CN
reactant | DIPEA | 1.068 mmol, 0.186 ml | CCN(C(C)C)C(C)C | C8H19N
reactant | 2-(3H-[1,2,3]triazolo[4,5-b]pyridin-3-yl)-1,1,3,3-tetramethylisouronium hexafluorophosphate(V) | 0.427 mmol, 162 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 ml | CN(C)C=O | C3H7NO
product | (S)-N-methyl-4-(4-((6-oxo-5,6,6a,7,8,9-hexahydropyrido[3,2-e]pyrrolo[1,2-a]pyrazin-3-yl)methyl)piperazin-1-yl)benzamide | 0.101 mmol, 42.4 mg, 47.2% yield | CNC(C1=CC=C(C=C1)N1CCN(CC1)CC1=CC=2NC([C@H]3N(C2N=C1)CCC3)=O)=O | C23H28N6O2
